US08980969B2
Preparation of AFM-Caprolaconyl Trimellitic Acid
Trimellitic acid anhydride chloride (50 g, 0.240 mol) is dissolved in 150 mL acetone in a 3-neck flask under nitrogen. The flask is cooled in an ice bath. A solution of AFM-caprolactone intermediate (82.05 g, 0.12 mol), and pyridine (19.0 g, 0.240 mol) in 80 ml of acetone is added slowly through a dropping funnel while continuously stirring the cold solution. After addition is completed, the flask contents are continuously stirred at room temperature for 4 hours. Water (4.32 g, 0.240 mol) is added and the solution is stirred continuously at room temperature overnight. The solids formed are removed by vacuum filtration and washed with acetone. The filtrate is concentrated and dried to yield the product

reactant | Trimellitic acid anhydride chloride | 0.240 mol, 50 g | C1=CC2=C(C=C1C(=O)Cl)C(=O)OC2=O | C9H3ClO4
reactant | caprolactone | 0.12 mol, 82.05 g | C1(CCCCCO1)=O | C6H10O2
reactant | pyridine | 0.240 mol, 19.0 g | N1=CC=CC=C1 | C5H5N
reactant | Water | 0.240 mol, 4.32 g | O | H2O
solvent | acetone | 150 mL | CC(=O)C | C3H6O
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | Trimellitic Acid | C(C=1C(C(=O)O)=CC(C(=O)O)=CC1)(=O)O | C9H6O6
